### PR TITLE
[Merged by Bors] - chore(Algebra/Group/Even): Clean up file

### PR DESCRIPTION
**Pull request by artie2000**
* Rename some theorems to remove primed variants
* Move `simp` attribute from `IsSquare.sq` to `Even.isSquare_pow` for consistency
* Remove unhelpful alias
* Golf some proofs
* Make notation consistent throughout proofs

Moves:
`Even.nsmul` -> `Even.nsmul_right`
`Even.nsmul'` -> `Even.nsmul_left`
`Even.zsmul` -> `Even.zsmul_right`
`Even.zsmul'` -> `Even.zsmul_left`
`isSquare_zero` -> `IsSquare.zero`

Deletions:
`isSquare_of_exists_sq` (prefer `IsSquare.sq`)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Even.lean [hunk 1]
```diff
@@ -92,38 +94,52 @@ lemma IsSquare.one [MulOneClass α] : IsSquare (1 : α) := ⟨1, (mul_one _).sym
...
+@[to_additive (attr := aesop unsafe 80% apply)]
+lemma Even.isSquare_pow : Even n → ∀ a : α, IsSquare (a ^ n) := by
+  rintro ⟨m, rfl⟩ a; exact ⟨a ^ m, pow_add _ _ _⟩
+
+@[deprecated (since := "2024-01-07")] alias Even.nsmul' := Even.even_nsmul
 
 end Monoid
 
-@[to_additive]
+@[to_additive (attr := aesop unsafe 90% apply)]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Even.lean:142]: Could you write a library note explaining the priority you choose here?

Comment (artie2000) [reply Mathlib/Algebra/Group/Even.lean:142]: I'll do this in #20477 and then review the priorities in this PR.

**Review by YaelDillies — COMMENTED** [review]
Sorry to be this person once again, but tweaking aesop priorities is so experimental that I would rather it be a standalone PR. Can you make it a separate PR depending on this one?

**Comment by artie2000** [comment]
To clarify, no Aesop priorities are changed here. One `simp` lemma is removed due to having an inappropriate form. Would you like me to move my additions of `aesop` attributes to a separate PR?

**Comment by artie2000** [comment]
I'm not sure it's right to call this chore
I did add some new thorems

**Comment by YaelDillies** [comment]
If none of `feat`, `refactor`, `chore` fits for all of a PR, then that probably means it should be split up into its `feat`, `refactor`, `chore` parts.

**Comment by artie2000** [comment]
> If none of `feat`, `refactor`, `chore` fits for all of a PR, then that probably means it should be split up into its `feat`, `refactor`, `chore` parts.

#20818

File: Mathlib/Algebra/Group/Even.lean [hunk 2]
```diff
@@ -91,63 +90,65 @@ lemma IsSquare.one [MulOneClass α] : IsSquare (1 : α) := ⟨1, (mul_one _).sym
...
 @[to_additive (attr := simp)] lemma isSquare_inv : IsSquare a⁻¹ ↔ IsSquare a := by
-  constructor <;> intro h
-  · rw [← isSquare_op_iff, ← inv_inv a]
-    exact h.map (MulEquiv.inv' α)
-  · exact (isSquare_op_iff.mpr h).map (MulEquiv.inv' α).symm
+  constructor <;> exact fun h => by simpa using (isSquare_op_iff.mpr h).map (MulEquiv.inv' α).symm
 
 alias ⟨_, IsSquare.inv⟩ := isSquare_inv
-
 attribute [to_additive] IsSquare.inv
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Even.lean:139]:
```suggestion
@[to_additive] alias ⟨_, IsSquare.inv⟩ := isSquare_inv
```
should work

File: Mathlib/Algebra/Group/Even.lean [hunk 3]
```diff
@@ -91,63 +90,65 @@ lemma IsSquare.one [MulOneClass α] : IsSquare (1 : α) := ⟨1, (mul_one _).sym
...
 lemma IsSquare.div [DivisionCommMonoid α] {a b : α} (ha : IsSquare a) (hb : IsSquare b) :
     IsSquare (a / b) := by rw [div_eq_mul_inv]; exact ha.mul hb.inv
 
-@[to_additive (attr := simp) Even.zsmul']
+@[to_additive]
 lemma Even.isSquare_zpow [Group α] {n : ℤ} : Even n → ∀ a : α, IsSquare (a ^ n) := by
-  rintro ⟨n, rfl⟩ a; exact ⟨a ^ n, zpow_add _ _ _⟩
+  rintro ⟨m, rfl⟩ a; exact ⟨a ^ m, zpow_add _ _ _⟩
+
+@[deprecated (since := "2024-01-07")] alias Even.zsmul' := Even.even_zsmul
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Even.lean:154]: Not sure why you're renaming this one. Current name seems correct (and better)

Comment (artie2000) [reply Mathlib/Algebra/Group/Even.lean:154]: current one has a dash, and has inconsistent additive and multiplicative names
(see also the change to Even.isSquare_pow)

File: Mathlib/Algebra/Group/Even.lean [hunk 4]
```diff
@@ -91,63 +90,64 @@ lemma IsSquare.one [MulOneClass α] : IsSquare (1 : α) := ⟨1, (mul_one _).sym
...
 variable [DivisionMonoid α] {a : α}
 
 @[to_additive (attr := simp)] lemma isSquare_inv : IsSquare a⁻¹ ↔ IsSquare a := by
-  constructor <;> intro h
-  · rw [← isSquare_op_iff, ← inv_inv a]
-    exact h.map (MulEquiv.inv' α)
-  · exact (isSquare_op_iff.mpr h).map (MulEquiv.inv' α).symm
-
-alias ⟨_, IsSquare.inv⟩ := isSquare_inv
+  constructor <;> exact fun h => by simpa using (isSquare_op_iff.mpr h).map (MulEquiv.inv' α).symm
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Even.lean:136]:
```suggestion
  constructor <;> intro h <;> simpa using (isSquare_op_iff.mpr h).map (MulEquiv.inv' α).symm
```

File: Mathlib/Algebra/Group/Even.lean [hunk 5]
```diff
@@ -91,63 +90,64 @@ lemma IsSquare.one [MulOneClass α] : IsSquare (1 : α) := ⟨1, (mul_one _).sym
...
+  rintro ⟨r, rfl⟩; exact ⟨r ^ n, (Commute.refl _).mul_zpow _⟩
 
 end DivisionMonoid
 
 @[to_additive]
 lemma IsSquare.div [DivisionCommMonoid α] {a b : α} (ha : IsSquare a) (hb : IsSquare b) :
     IsSquare (a / b) := by rw [div_eq_mul_inv]; exact ha.mul hb.inv
 
-@[to_additive (attr := simp) Even.zsmul']
+@[to_additive]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Even.lean:149]: I still don't understand that change.
* The previous additive name was more appropriate
* Why are you removing `simp`?

File: Mathlib/Algebra/Group/Even.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Even.lean:153]: Ah sorry, I'd already commented here

It makes sense that the additive and multiplicative names are different, since the `IsSquare` becomes `Even` and suddenly matches the namespace.

If you want to remove the dash, consider renaming `Even.zsmul`/`Even.zsmul'` to `Even.zsmul_right`/`Even.zsmul_left`

File: Mathlib/Algebra/Group/Even.lean (hunk 5 above)
Comment (artie2000) [reply Mathlib/Algebra/Group/Even.lean:149]: simp will basically never match because it has a nontrivial hypothesis, right?
originally I was replacing simp with aesop, but the second part's been delayed to #20781

File: Mathlib/Algebra/Group/Even.lean (hunk 3 above)
Comment (artie2000) [reply Mathlib/Algebra/Group/Even.lean]: done

File: Mathlib/Algebra/Group/Even.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Even.lean]: > simp will basically never match because it has a nontrivial hypothesis, right?

What do you mean? simp can handle conditional lemmas

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Even.lean]: > originally I was replacing simp with aesop, but the second part's been delayed to #20781

Then you should delay removing the simp attribute until #20781

File: Mathlib/Algebra/Group/Even.lean [hunk 6]
```diff
@@ -91,63 +90,68 @@ lemma IsSquare.one [MulOneClass α] : IsSquare (1 : α) := ⟨1, (mul_one _).sym
...
+  fun ⟨r, _⟩ => ⟨f r, by simp_all⟩
+
+end MonoidHom
 
 section Monoid
 variable [Monoid α] {n : ℕ} {a : α}
 
 @[to_additive even_iff_exists_two_nsmul]
-lemma isSquare_iff_exists_sq (m : α) : IsSquare m ↔ ∃ c, m = c ^ 2 := by simp [IsSquare, pow_two]
+lemma isSquare_iff_exists_sq (a : α): IsSquare a ↔ ∃ r, a = r ^ 2 := by simp [IsSquare, pow_two]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Even.lean:106]:
```suggestion
lemma isSquare_iff_exists_sq (a : α) : IsSquare a ↔ ∃ r, a = r ^ 2 := by simp [IsSquare, pow_two]
```

File: Mathlib/Algebra/Group/Even.lean [hunk 7]
```diff
@@ -91,63 +90,68 @@ lemma IsSquare.one [MulOneClass α] : IsSquare (1 : α) := ⟨1, (mul_one _).sym
...
+  "Alias of the forwards direction of `even_iff_exists_two_nsmul`."]
+alias ⟨IsSquare.exists_sq, _⟩ := isSquare_iff_exists_sq
 
-attribute [to_additive Even.exists_two_nsmul
-  "Alias of the forwards direction of `even_iff_exists_two_nsmul`."] IsSquare.exists_sq
+@[to_additive (attr := simp) Even.two_nsmul]
+lemma IsSquare.sq (r : α) : IsSquare (r ^ 2) := ⟨r, pow_two _⟩
+
+@[deprecated (since := "2024-12-27")] alias even_two_nsmul := Even.two_nsmul
+@[deprecated (since := "2024-12-27")] alias IsSquare_sq := IsSquare.sq
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Even.lean:116]: This might help untangle the diff
```suggestion
@[deprecated (since := "2024-12-27")] alias IsSquare_sq := IsSquare.sq
@[deprecated (since := "2024-12-27")] alias even_two_nsmul := Even.two_nsmul
```

File: Mathlib/Algebra/Group/Even.lean [hunk 8]
```diff
@@ -91,63 +90,68 @@ lemma IsSquare.one [MulOneClass α] : IsSquare (1 : α) := ⟨1, (mul_one _).sym
...
-@[deprecated (since := "2024-12-27")] alias even_two_nsmul := Even.two_nsmul
+@[deprecated (since := "2024-01-19")] alias Even.nsmul' := Even.nsmul_left
 
 end Monoid
 
 @[to_additive]
-lemma IsSquare.mul [CommSemigroup α] {a b : α} : IsSquare a → IsSquare b → IsSquare (a * b) := by
-  rintro ⟨a, rfl⟩ ⟨b, rfl⟩; exact ⟨a * b, mul_mul_mul_comm _ _ _ _⟩
+lemma IsSquare.mul [CommSemigroup α] {a b : α} : IsSquare a → IsSquare b → IsSquare (a * b) :=
+  fun ⟨r, _⟩ ⟨s, _⟩ => ⟨r * s, by simp_all [mul_mul_mul_comm]⟩
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Even.lean:132]: Did you mean
```suggestion
  fun ⟨r, _⟩ ⟨s, _⟩ => ⟨r * s, by simp [*, mul_mul_mul_comm]⟩
```

File: Mathlib/Algebra/Group/Even.lean [hunk 9]
```diff
@@ -91,63 +90,68 @@ lemma IsSquare.one [MulOneClass α] : IsSquare (1 : α) := ⟨1, (mul_one _).sym
...
-  "Alias of the forwards direction of `even_iff_exists_two_nsmul`."] IsSquare.exists_sq
+@[to_additive (attr := simp) Even.two_nsmul]
+lemma IsSquare.sq (r : α) : IsSquare (r ^ 2) := ⟨r, pow_two _⟩
+
+@[deprecated (since := "2024-12-27")] alias even_two_nsmul := Even.two_nsmul
+@[deprecated (since := "2024-12-27")] alias IsSquare_sq := IsSquare.sq
 
-@[to_additive] lemma IsSquare.pow (n : ℕ) : IsSquare a → IsSquare (a ^ n) := by
-  rintro ⟨a, rfl⟩; exact ⟨a ^ n, (Commute.refl _).mul_pow _⟩
+@[to_additive Even.nsmul_right] lemma IsSquare.pow (n : ℕ) : IsSquare a → IsSquare (a ^ n) := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Even.lean:118]: The lack of symmetry between `IsSquare` and `Even` make me a bit uncomfortable here; @YaelDillies, do you prefer the new names?

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Even.lean:118]: I think they are okay, yes. See https://github.com/leanprover-community/mathlib4/pull/20558#discussion_r1921494679

File: Mathlib/Algebra/Group/Even.lean (hunk 5 above)
Comment (artie2000) [reply Mathlib/Algebra/Group/Even.lean]: > > simp will basically never match because it has a nontrivial hypothesis, right?
> 
> What do you mean? simp can handle conditional lemmas

oh it can? is there somewhere I can read about this?
in this specific case we should also add the simp tag to the nsmul version, then

File: Mathlib/Algebra/Group/Even.lean (hunk 8 above)
Comment (artie2000) [reply Mathlib/Algebra/Group/Even.lean:132]: I think this was extracted from aesop originally
Your suggestion is probably better

File: Mathlib/Algebra/Group/Even.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Even.lean]: > is there somewhere I can read about this?

Hopefully in the simp documentation but I can't check currently

> in this specific case we should also add the simp tag to the nsmul version, then

👍

Comment (artie2000) [reply Mathlib/Algebra/Group/Even.lean]: ah OK
it discharges side conditions up to a depth of 2
good to know

File: Mathlib/Algebra/Group/Even.lean [hunk 10]
```diff
@@ -91,63 +90,70 @@ lemma IsSquare.one [MulOneClass α] : IsSquare (1 : α) := ⟨1, (mul_one _).sym
...
-@[deprecated (since := "2024-12-27")] alias even_two_nsmul := Even.two_nsmul
+@[deprecated (since := "2024-01-19")] alias Even.nsmul' := Even.nsmul_left
 
 end Monoid
 
 @[to_additive]
-lemma IsSquare.mul [CommSemigroup α] {a b : α} : IsSquare a → IsSquare b → IsSquare (a * b) := by
-  rintro ⟨a, rfl⟩ ⟨b, rfl⟩; exact ⟨a * b, mul_mul_mul_comm _ _ _ _⟩
+lemma IsSquare.mul [CommSemigroup α] {a b : α} : IsSquare a → IsSquare b → IsSquare (a * b) :=
+  fun ⟨r, _⟩ ⟨s, _⟩ => ⟨r * s, by simp [*, mul_mul_mul_comm]⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Even.lean:134]: Not sure this is necessarily better

File: Mathlib/Algebra/Ring/Parity.lean [hunk 11]
```diff
@@ -54,7 +54,9 @@ lemma Even.neg_one_zpow (h : Even n) : (-1 : α) ^ n = 1 := by rw [h.neg_zpow, o
 
 end DivisionMonoid
 
-@[simp] lemma isSquare_zero [MulZeroClass α] : IsSquare (0 : α) := ⟨0, (mul_zero _).symm⟩
+@[simp] lemma IsSquare.zero [MulZeroClass α] : IsSquare (0 : α) := ⟨0, (mul_zero _).symm⟩
+
+@[deprecated (since := "2024-01-07")] alias isSquare_zero := IsSquare.zero
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Ring/Parity.lean:59]: Here too

File: Mathlib/Algebra/Group/Even.lean (hunk 10 above)
Comment (artie2000) [reply Mathlib/Algebra/Group/Even.lean:134]: suggested by @YaelDillies; what do you think Yael?

File: Mathlib/Algebra/Group/Even.lean [hunk 12]
```diff
@@ -44,14 +44,13 @@ for some `r : α`. -/
 for some `r : α`."]
 def IsSquare (a : α) : Prop := ∃ r, a = r * r
 
-@[to_additive (attr := simp)] lemma IsSquare.mul_self (m : α) : IsSquare (m * m) := ⟨m, rfl⟩
+@[to_additive (attr := simp)] lemma IsSquare.mul_self (r : α) : IsSquare (r * r) := ⟨r, rfl⟩
```
[the remark this answers is not in the document]
Comment (artie2000) [reply Mathlib/Algebra/Group/Even.lean:47]: I changed the argument names throughout the file to be consistent in order to make the file more readable. Can you give an example of such notation documentation?

File: Mathlib/Algebra/Group/Even.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Even.lean:142]: I didn't suggest removing `rintro`, only replacing `simp_all` by `simp [*]`

Comment (artie2000) [reply Mathlib/Algebra/Group/Even.lean:142]: Oh mb
in any case this proof comes from undoing my Aesop automation. I don't really mind what the proofs are given that I want to replace everything with Aesop eventually anyway, but the differences in speed seem pretty marginal to me

Comment (artie2000) [reply Mathlib/Algebra/Group/Even.lean:142]: Just so I can change all the proofs in this file to the right style rather than 1-by-1 (and for future reference), why is the original proof here better?

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Even.lean:142]: I would say it's because it uses `rfl` to substitute rather than relying on `simp [*]` (which only does the same as `rfl` if the hypothesis is `free_variable = big_expression` and not `big_expression = free_variable`). But it's quite marginal.

File: Mathlib/Algebra/Field/Power.lean [hunk 13]
```diff
@@ -22,7 +22,7 @@ section DivisionRing
 variable [DivisionRing α] {n : ℤ}
 
 theorem Odd.neg_zpow (h : Odd n) (a : α) : (-a) ^ n = -a ^ n := by
-  have hn : n ≠ 0 := by rintro rfl; exact Int.not_even_iff_odd.2 h even_zero
+  have hn : n ≠ 0 := by rintro rfl; exact Int.not_even_iff_odd.2 h Even.zero
```
Comment (YaelDillies) [inline Mathlib/Algebra/Field/Power.lean:25]:
```suggestion
  have hn : n ≠ 0 := by rintro rfl; exact Int.not_even_iff_odd.2 h .zero
```

File: Mathlib/Algebra/Group/Nat/Even.lean [hunk 14]
```diff
@@ -72,7 +72,7 @@ lemma even_pow' (h : n ≠ 0) : Even (m ^ n) ↔ Even m := even_pow.trans <| and
 lemma even_mul_succ_self (n : ℕ) : Even (n * (n + 1)) := by rw [even_mul, even_add_one]; exact em _
 
 lemma even_mul_pred_self : ∀ n : ℕ, Even (n * (n - 1))
-  | 0 => even_zero
+  | 0 => Even.zero
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Nat/Even.lean:75]:
```suggestion
  | 0 => .zero
```

File: Mathlib/Algebra/Order/Field/Power.lean [hunk 15]
```diff
@@ -116,7 +116,7 @@ protected lemma Odd.zpow_nonneg_iff (hn : Odd n) : 0 ≤ a ^ n ↔ 0 ≤ a :=
 theorem Odd.zpow_nonpos_iff (hn : Odd n) : a ^ n ≤ 0 ↔ a ≤ 0 := by
   rw [le_iff_lt_or_eq, le_iff_lt_or_eq, hn.zpow_neg_iff, zpow_eq_zero_iff]
   rintro rfl
-  exact Int.not_even_iff_odd.2 hn even_zero
+  exact Int.not_even_iff_odd.2 hn Even.zero
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Field/Power.lean:119]:
```suggestion
  exact Int.not_even_iff_odd.2 hn .zero
```

File: Mathlib/Data/Bool/Count.lean [hunk 16]
```diff
@@ -96,7 +96,7 @@ theorem two_mul_count_bool_eq_ite (hl : Chain' (· ≠ ·) l) (b : Bool) :
   by_cases h2 : Even (length l)
   · rw [if_pos h2, hl.two_mul_count_bool_of_even h2]
   · cases' l with x l
-    · exact (h2 even_zero).elim
+    · exact (h2 Even.zero).elim
```
Comment (YaelDillies) [inline Mathlib/Data/Bool/Count.lean:99]:
```suggestion
    · exact (h2 .zero).elim
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by riccardobrasca** [comment]
This PR is marked "awaiting author". Should the label be removed?

File: Mathlib/Algebra/Group/Even.lean [hunk 17]
```diff
@@ -89,65 +95,73 @@ end Add
...
 @[to_additive even_iff_exists_two_nsmul]
-lemma isSquare_iff_exists_sq (m : α) : IsSquare m ↔ ∃ c, m = c ^ 2 := by simp [IsSquare, pow_two]
+lemma isSquare_iff_exists_sq (a : α) : IsSquare a ↔ ∃ r, a = r ^ 2 := by simp [IsSquare, pow_two]
+
+@[to_additive Even.exists_two_nsmul
+  "Alias of the forwards direction of `even_iff_exists_two_nsmul`."]
+alias ⟨IsSquare.exists_sq, _⟩ := isSquare_iff_exists_sq
 
-alias ⟨IsSquare.exists_sq, isSquare_of_exists_sq⟩ := isSquare_iff_exists_sq
+-- provable by simp in Algebra.Ring.Parity
```
Comment (adomani) [inline Mathlib/Algebra/Group/Even.lean:120]:
```suggestion
-- provable by simp in `Algebra.Ring.Parity`
```

File: Mathlib/Algebra/Group/Even.lean (hunk 12 above)
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Algebra/Group/Even.lean:53]: It looks like the undocumented convention is that `r` is a "square `r`oot" of `a`, where possible.

I don't think that it is too important to enforce this, but you can, if you want, add a sentence to the doc-string.

**Review by adomani — COMMENTED** [review]
Thanks, this looks good!

Please, update the comment, if you want, add a sentence to the doc-string and then merge!

bors d+

**Comment by adomani** [comment]
> This PR is marked "awaiting author". Should the label be removed?

Ah, I had missed that!

bors d-

**Comment by artie2000** [comment]
@adomani I'm confused about the status of this PR. Should I go ahead with the merge?

**Comment by YaelDillies** [comment]
I think the confusion is simply that you forgot to remove `awaiting-author`. I would say you can merge, yes.

**Comment by artie2000** [comment]
Oh sorry! I'll merge once it passes CI

**Comment by adomani** [comment]
Yes, I had overlooked the `awaiting-author` label, but I was happy with the form that the PR had anyway!
